US03991116
180 grams (0.75 moles) of 2,6-dinitro-4-tert-butylphenol thus prepared was placed in a mixture of 113 grams (0.95 moles) thionyl chloride, 55 grams (0.76 moles) dimethylformamide and 300 ml. of dry toluene. The mixture was stirred and heated to reflux temperature for 15 hours after which time the thionyl chloride, DMF and toluene were removed under reduced pressure until a slush remained. Hexane was then added to the reaction vessel, the mixture cooled and filtered. The product was then recrystallized from boiling hexane to give 168 grams 2,6-dinitro-4-tert-butylchlorobenzene in the form of light yellow needles melting at 114° - 116° C.

reactant | 2,6-dinitro-4-tert-butylphenol | 0.75 moles, 180 grams | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])O | C10H12N2O5
reactant | thionyl chloride | 0.95 moles, 113 grams | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.76 moles, 55 grams | CN(C=O)C | C3H7NO
reactant | DMF | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-dinitro-4-tert-butylchlorobenzene | 168 grams | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])Cl | C10H11ClN2O4
